US04971982
7.3 g of 2-[3-(4-cyanophenoxy)-3-methyl-2-oxobutyl]-6-methylpyridine N-oxide in 160 ml of ethanol were treated with 0.96 g of sodium borohydride and the mixture was stirred for 30 minutes. The solvent was removed by evaporation and the residue was taken up in water and dichloromethane. The organic phase was separated, dried over sodium sulphate and evaporated. The residue was crystallized from diethyl ether to give 7.1 g of 2-[3-(4-cyanophenoxy)-2-hydroxy-3-methylbutyl]-6-methylpyridine N-oxide of melting point 89°-92° C.

reactant | 2-[3-(4-cyanophenoxy)-3-methyl-2-oxobutyl]-6-methylpyridine N-oxide | 7.3 g | C(#N)C1=CC=C(OC(C(CC2=[N+](C(=CC=C2)C)[O-])=O)(C)C)C=C1 | C18H18N2O3
reactant | sodium borohydride | 0.96 g | [BH4-].[Na+]
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 2-[3-(4-cyanophenoxy)-2-hydroxy-3-methylbutyl]-6-methylpyridine N-oxide | 7.1 g | C(#N)C1=CC=C(OC(C(CC2=[N+](C(=CC=C2)C)[O-])O)(C)C)C=C1 | C18H20N2O3
